### PR TITLE
[Merged by Bors] - refactor(Topology/Compactness): use `Disjoint` in closed-subfamily compactness lemmas

### PR DESCRIPTION
**Pull request by FrankieNC**
Resolve the three `-- TODO: reformulate using Disjoint` comments in `Mathlib/Topology/Compactness/Compact.lean` by restating

- `IsCompact.elim_directed_family_closed`
- `IsCompact.elim_finite_subfamily_closed`
- `isCompact_of_finite_subfamily_closed`
- `isCompact_iff_finite_subfamily_closed`

with `Disjoint s (⋂ i, t i)` in place of `s ∩ ⋂ i, t i = ∅`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Compactness/Compact.lean [hunk 1]
```diff
@@ -318,13 +311,12 @@ theorem IsCompact.nonempty_iInter_of_directed_nonempty_isCompact_isClosed
   let i₀ := hι.some
   suffices (t i₀ ∩ ⋂ i, t i).Nonempty by
     rwa [inter_eq_right.mpr (iInter_subset _ i₀)] at this
-  simp only [nonempty_iff_ne_empty] at htn ⊢
-  apply mt ((htc i₀).elim_directed_family_closed t htcl)
-  push Not
-  simp only [← nonempty_iff_ne_empty] at htn ⊢
-  refine ⟨htd, fun i => ?_⟩
+  rw [← not_disjoint_iff_nonempty_inter]
+  intro hst
```
Comment (CoolRmal) [inline Mathlib/Topology/Compactness/Compact.lean]:
```suggestion
  refine not_disjoint_iff_nonempty_inter.1 fun hst ↦ ?_
```

File: Mathlib/Topology/UniformSpace/Closeds.lean [hunk 2]
```diff
@@ -481,7 +481,7 @@ theorem compactSpace_iff : CompactSpace (Closeds α) ↔ CompactSpace α := by
   have := isClopen_singleton_bot.compl.isClosed.isCompact.elim_finite_subfamily_closed
     (fun i => {C : Closeds α | ↑C ⊆ F i})
     (fun i => isClosed_subsets_of_isClosed (hF₁ i))
-  simp_rw [← Set.disjoint_iff_inter_eq_empty, Set.disjoint_compl_left_iff_subset,
+  simp_rw [Set.disjoint_compl_left_iff_subset,
     ← Set.ofPred_forall, ← Set.subset_iInter_iff, hF₂, Set.subset_empty_iff, coe_eq_empty,
     Set.ofPred_eq_eq_singleton] at this
```
Comment (CoolRmal) [inline Mathlib/Topology/UniformSpace/Closeds.lean]:
```suggestion
  simp_rw [Set.disjoint_compl_left_iff_subset, ← Set.ofPred_forall, ← Set.subset_iInter_iff, hF₂, 
    Set.subset_empty_iff, coe_eq_empty, Set.ofPred_eq_eq_singleton] at this
```

File: Mathlib/Topology/Compactness/Compact.lean [hunk 3]
```diff
@@ -264,28 +264,20 @@ theorem IsCompact.disjoint_nhdsSet_right {l : Filter X} (hs : IsCompact s) :
     Disjoint l (𝓝ˢ s) ↔ ∀ x ∈ s, Disjoint l (𝓝 x) := by
   simpa only [disjoint_comm] using hs.disjoint_nhdsSet_left
 
--- TODO: reformulate using `Disjoint`
-/-- For every directed family of closed sets whose intersection avoids a compact set,
-there exists a single element of the family which itself avoids this compact set. -/
+/-- For every directed family of closed sets disjoint from a compact set,
```
Comment (CoolRmal) [inline Mathlib/Topology/Compactness/Compact.lean]:
```suggestion
/-- For every directed family of closed sets whose intersection is disjoint from a compact set,
```

File: Mathlib/Topology/Compactness/Compact.lean [hunk 4]
```diff
@@ -264,28 +264,20 @@ theorem IsCompact.disjoint_nhdsSet_right {l : Filter X} (hs : IsCompact s) :
...
--- TODO: reformulate using `Disjoint`
-/-- For every family of closed sets whose intersection avoids a compact set,
-there exists a finite subfamily whose intersection avoids this compact set. -/
+    (t : ι → Set X) (htc : ∀ i, IsClosed (t i)) (hst : Disjoint s (⋂ i, t i))
+    (hdt : Directed (· ⊇ ·) t) : ∃ i : ι, Disjoint s (t i) := by
+  simp only [← subset_compl_iff_disjoint_right, compl_iInter] at hst ⊢
+  exact hs.elim_directed_cover (compl ∘ t) (fun i ↦ (htc i).isOpen_compl) hst
+    (hdt.mono_comp _ fun _ _ ↦ compl_subset_compl.mpr)
+
+/-- For every family of closed sets disjoint from a compact set,
```
Comment (CoolRmal) [inline Mathlib/Topology/Compactness/Compact.lean]:
```suggestion
/-- For every family of closed sets whose intersection is disjoint from a compact set,
```

File: Mathlib/Topology/Compactness/Compact.lean [hunk 5]
```diff
@@ -1048,10 +1039,10 @@ theorem IsCompact.elim_finite_subfamily_isClosed_subtype
     (htc : ∀ i ∈ I, IsClosed (s ↓∩ (t i) : Set s))
     (hst : s ∩ ⋂ i ∈ I, t i = ∅) :
     ∃ u : Finset I, s ∩ ⋂ i ∈ u, t i = ∅ := by
-  suffices univ ∩ ⋂ i, (fun i : I ↦ s ↓∩ t i) i = ∅ by
+  suffices ⋂ i, (fun i : I ↦ s ↓∩ t i) i = ∅ by
     simpa [eq_empty_iff_forall_notMem] using
       (isCompact_iff_isCompact_univ.mp ks).elim_finite_subfamily_closed
-      (fun i : I ↦ s ↓∩ t i) (fun i ↦ htc i.val i.prop) this
+      (fun i : I ↦ s ↓∩ t i) (fun i ↦ htc i.val i.prop) (univ_disjoint.mpr this)
```
Comment (CoolRmal) [inline Mathlib/Topology/Compactness/Compact.lean:1043]: I think the change here suggests that we probably should also use `Disjoint` in [IsCompact.elim_finite_subfamily_isClosed_subtype](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Compactness/Compact.html#IsCompact.elim_finite_subfamily_isClosed_subtype)

File: Mathlib/Topology/Compactness/Compact.lean [hunk 6]
```diff
@@ -371,18 +363,17 @@ theorem isCompact_of_finite_subcover
   rw [subset_compl_comm, compl_iInter₂]
   simpa only [compl_compl]
 
--- TODO: reformulate using `Disjoint`
-/-- A set `s` is compact if for every family of closed sets whose intersection avoids `s`,
-there exists a finite subfamily whose intersection avoids `s`. -/
+/-- A set `s` is compact if for every family of closed sets disjoint from `s`,
```
Comment (CoolRmal) [inline Mathlib/Topology/Compactness/Compact.lean]:
```suggestion
/-- A set `s` is compact if for every family of closed sets whose intersection is disjoint from `s`,
```

File: Mathlib/Topology/Compactness/Compact.lean [hunk 7]
```diff
@@ -392,11 +383,11 @@ theorem isCompact_iff_finite_subcover :
   ⟨fun hs => hs.elim_finite_subcover, isCompact_of_finite_subcover⟩
 
 /-- A set `s` is compact if and only if
-for every family of closed sets whose intersection avoids `s`,
-there exists a finite subfamily whose intersection avoids `s`. -/
+for every family of closed sets disjoint from `s`,
+there exists a finite subfamily whose intersection is disjoint from `s`. -/
```
Comment (CoolRmal) [inline Mathlib/Topology/Compactness/Compact.lean]:
```suggestion
/-- A set `s` is compact if and only if for every family of closed sets whose intersection is 
disjoint from `s`, there exists a finite subfamily whose intersection is disjoint from `s`. -/
```
This line break here is weird.

File: Mathlib/Topology/Separation/Regular.lean [hunk 8]
```diff
@@ -783,7 +783,7 @@ instance ConnectedComponents.t2 [T2Space X] [CompactSpace X] : T2Space (Connecte
   rw [ConnectedComponents.coe_ne_coe] at ne
   have h := connectedComponent_disjoint ne
   -- write ↑b as the intersection of all clopen subsets containing it
-  rw [connectedComponent_eq_iInter_isClopen b, disjoint_iff_inter_eq_empty] at h
+  rw [connectedComponent_eq_iInter_isClopen b] at h
   -- Now we show that this can be reduced to some clopen containing `↑b` being disjoint to `↑a`
   obtain ⟨U, V, hU, ha, hb, rfl⟩ : ∃ (U : Set X) (V : Set (ConnectedComponents X)),
       IsClopen U ∧ connectedComponent a ∩ U = ∅ ∧ connectedComponent b ⊆ U ∧ (↑) ⁻¹' V = U := by
```
Comment (CoolRmal) [inline Mathlib/Topology/Separation/Regular.lean]: Can you use `Disjoint` here so that there is no need for the change you made below?

You then need to use `exact fun h ↦ Set.disjoint_left.mp ha mem_connectedComponent h` in the last line.

Comment (FrankieNC) [reply Mathlib/Topology/Separation/Regular.lean]: Thanks!

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 9]
```diff
@@ -321,8 +321,8 @@ theorem LowerSemicontinuousOn.inter_biInter_preimage_Iic_eq_empty_iff_exists_fin
     s ∩ ⋂ i ∈ I, (f i) ⁻¹' Iic c = ∅ ↔ ∃ u : Finset I, ∀ x ∈ s, ∃ i ∈ u, c < f i x := by
```
Comment (CoolRmal) [inline Mathlib/Topology/Semicontinuity/Basic.lean]: This probably should also use Disjoint right?

File: Mathlib/Topology/Separation/Regular.lean [hunk 10]
```diff
@@ -783,10 +783,11 @@ instance ConnectedComponents.t2 [T2Space X] [CompactSpace X] : T2Space (Connecte
   rw [ConnectedComponents.coe_ne_coe] at ne
   have h := connectedComponent_disjoint ne
   -- write ↑b as the intersection of all clopen subsets containing it
-  rw [connectedComponent_eq_iInter_isClopen b, disjoint_iff_inter_eq_empty] at h
+  rw [connectedComponent_eq_iInter_isClopen b] at h
   -- Now we show that this can be reduced to some clopen containing `↑b` being disjoint to `↑a`
   obtain ⟨U, V, hU, ha, hb, rfl⟩ : ∃ (U : Set X) (V : Set (ConnectedComponents X)),
-      IsClopen U ∧ connectedComponent a ∩ U = ∅ ∧ connectedComponent b ⊆ U ∧ (↑) ⁻¹' V = U := by
+      IsClopen U ∧ Disjoint (connectedComponent a) U ∧ connectedComponent b ⊆ U ∧
+        (↑) ⁻¹' V = U := by
```
Comment (CoolRmal) [inline Mathlib/Topology/Separation/Regular.lean]:
```suggestion
    IsClopen U ∧ Disjoint (connectedComponent a) U ∧ connectedComponent b ⊆ U ∧ (↑) ⁻¹' V = U := by
```
Not sure why we have this weird indentation.

File: Mathlib/Topology/Semicontinuity/Basic.lean (hunk 9 above)
Comment (FrankieNC) [reply Mathlib/Topology/Semicontinuity/Basic.lean]: Yeah, thanks for spotting it! I will go ahead and refactor it to use `Disjoint`.

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 11]
```diff
@@ -313,20 +313,19 @@ theorem LowerSemicontinuousOn.isCompact_inter_preimage_Iic {f : α → γ}
   exact hv' ▸ ks.inter_right hv
 
 open scoped Set.Notation in
-/-- An intersection of sublevel sets of a lower semicontinuous function
-on a compact set is empty if and only if a finite sub-intersection is already empty. -/
-theorem LowerSemicontinuousOn.inter_biInter_preimage_Iic_eq_empty_iff_exists_finset
+/-- An intersection of sublevel sets of a lower semicontinuous function on a compact set is
+disjoint from the compact set if and only if a finite sub-intersection already is. -/
+theorem LowerSemicontinuousOn.disjoint_biInter_preimage_Iic_iff_exists_finset
```
Comment (grunweg) [inline Mathlib/Topology/Semicontinuity/Basic.lean:318]: As you're (rightfully) renaming the theorem, please also add a deprecation for the old lemma. (Search for `deprecated alias` in mathlib to get an idea how.)

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 12]
```diff
@@ -874,13 +873,13 @@ theorem UpperSemicontinuousOn.isCompact_inter_preimage_Ici {f : α → γ}
   LowerSemicontinuousOn.isCompact_inter_preimage_Iic (γ := γᵒᵈ) hfs ks c
 
 open scoped Set.Notation in
-/-- An intersection of overlevel sets of a lower semicontinuous function
-on a compact set is empty if and only if a finite sub-intersection is already empty. -/
-theorem UpperSemicontinuousOn.inter_biInter_preimage_Ici_eq_empty_iff_exists_finset
+/-- An intersection of overlevel sets of an upper semicontinuous function on a compact set is
+disjoint from the compact set if and only if a finite sub-intersection already is. -/
+theorem UpperSemicontinuousOn.disjoint_biInter_preimage_Ici_iff_exists_finset
```
Comment (grunweg) [inline Mathlib/Topology/Semicontinuity/Basic.lean:882]: also here

**Review by grunweg — COMMENTED** [review]
Thanks! Generally looks good, one more comment about deprecations.

File: Mathlib/Topology/Semicontinuity/Basic.lean (hunk 11 above)
Comment (CoolRmal) [reply Mathlib/Topology/Semicontinuity/Basic.lean:318]: sorry I didn't notice the name change during the review

Comment (grunweg) [reply Mathlib/Topology/Semicontinuity/Basic.lean:318]: No worries, mistakes happen! We can learn from them :-)

Comment (FrankieNC) [reply Mathlib/Topology/Semicontinuity/Basic.lean:318]: Thanks! I forgot to add them.

File: Mathlib/Topology/Semicontinuity/Basic.lean [hunk 13]
```diff
@@ -313,22 +313,30 @@ theorem LowerSemicontinuousOn.isCompact_inter_preimage_Iic {f : α → γ}
...
         ks.elim_finite_subfamily_isClosed_subtype _ this H
     exact fun i hi ↦ lowerSemicontinuous_restrict_iff.mpr (hfi i hi) |>.isClosed_preimage c
-  · rw [Set.eq_empty_iff_forall_notMem]
-    simp only [mem_inter_iff, mem_iInter, mem_preimage, mem_Iic, not_and, not_forall,
-      exists_prop, not_le]
+  · rw [Set.disjoint_left]
+    simp only [mem_iInter, mem_preimage, mem_Iic, not_forall, exists_prop, not_le]
     grind
 
+@[deprecated LowerSemicontinuousOn.disjoint_biInter_preimage_Iic_iff_exists_finset
```
Comment (grunweg) [inline Mathlib/Topology/Semicontinuity/Basic.lean]: Is there a reason you're not using a `deprecated alias` here? (Also below)

Comment (FrankieNC) [reply Mathlib/Topology/Semicontinuity/Basic.lean]: My bad! I read your previous comment as "Use `deprecated`". I fixed it now to use `alias` with the `deprecated` tag.

**Comment by grunweg** [comment]
Thanks!
bors merge
